US06759421B2
Step C: N-Ethyl-N′-(6-methoxy-1-oxo-1,2,3,4-tetrahydro-2-naphthyl)urea
Pour 4.77 g (0.044 mol) of ethyl chloroformate at 0° C. into 5 g (0.022 mol) of 2-amino-6-methoxy-3,4-dihydro-2H-naphthalen-1-one dissolved in pyridine. After two hours at ambient temperature, concentrate the pyridine, take up in dichloromethane and then wash the organic phase with 0.1N hydrochloric acid solution and then with saturated sodium hydrogen carbonate solution and water; dry over magnesium sulphate, filter, and evaporate off the solvent. 5.48 g of an orange solid are obtained.

reactant | ethyl chloroformate | 0.044 mol, 4.77 g | ClC(=O)OCC | C3H5ClO2
reactant | 2-amino-6-methoxy-3,4-dihydro-2H-naphthalen-1-one | 0.022 mol, 5 g | NC1C(C2=CC=C(C=C2CC1)OC)=O | C11H13NO2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | N-Ethyl-N′-(6-methoxy-1-oxo-1,2,3,4-tetrahydro-2-naphthyl)urea | 5.48 g | C(C)NC(=O)NC1C(C2=CC=C(C=C2CC1)OC)=O | C14H18N2O3
